US06610694B1
Production of 6-[3-[4-(Diphenylmethoxy)piperidino]propylamino]-2-methyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
0.277 g of 6-chloro-2-methyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one was dissolved in 2 ml of N,N-dimethylformamide; 0.487 g of 4-(diphenylmethoxy)-1-piperidinepropanamine was added, followed by stirring in an oil bath (bath temperature 140-150° C.) for 1 hour. After cooling, ice water and an aqueous solution of sodium hydrogen carbonate were added; the reaction mixture was extracted with ethyl acetate; the extract was washed with saturated saline and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (90:10:1). The desired fraction was collected and concentrated; the crystal obtained was filtered, washed with diethyl ether, and dried, to yield 0.19 g of the title compound.

reactant | 6-chloro-2-methyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.277 g | ClC=1C=CC=2N(N1)C(N(N2)C)=O | C6H5ClN4O
reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 0.487 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 6-[3-[4-(Diphenylmethoxy)piperidino]propylamino]-2-methyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.19 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C(N(N2)C)=O)C2=CC=CC=C2 | C27H32N6O2
